US06822109B2
Preparation of 9-methoxymethyl-9-triethylsilyloxymethyl-fluorene
1 g of 9-methoxymethyl-9-hydroxymethyl-fluorene (4.2 mmol) was dissolved in 20 ml of dichloromethane. The solution was cooled in ice-water bath, and 0.87 ml of triethyl amine (6.2 mmol) was added thereto. After stirring for 5 minutes, 0.91 ml of triethylsilyl chloride (5.4 mmol) was added drop-wise, and the mixture was stirred for further 2 hours, followed by stirring at room temperature for 1 hour. The reaction mixture was washed with water, and the organic layer separated was dried over anhydrous sodium sulfate. After filtration, the filtrate was evaporated to give 1.24 g of concentrate (yield 84%).

reactant | 9-methoxymethyl-9-hydroxymethyl-fluorene | 4.2 mmol, 1 g | COCC1(C2=CC=CC=C2C=2C=CC=CC12)CO | C16H16O2
reactant | triethyl amine | 6.2 mmol, 0.87 ml | C(C)N(CC)CC | C6H15N
reactant | triethylsilyl chloride | 5.4 mmol, 0.91 ml | C(C)[Si](CC)(CC)Cl | C6H15ClSi
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 9-methoxymethyl-9-triethylsilyloxymethyl-fluorene | yield 84% | COCC1(C2=CC=CC=C2C=2C=CC=CC12)CO[Si](CC)(CC)CC | C22H30O2Si
